US06465490B1
(S)-Methoxy-2-phenyl-acetic acid {1-[2-(4-fluoro-phenyl)-ethyl]-piperidin4-yl}-(3-hydroxy-2-methoxy-phenyl)-methyl ester
Add to methoxy-phenyl-acetic acid {1-[2-(4-fluoro-phenyl)-ethyl]-piperidin-4-yl}-(2-methoxy-3-triisopropylsilanyloxy-phenyl)-methyl ester, Example 1C (207 g, 0.3111 mol) a 0.5M solution of methanolic ammonium tetrafluoride (1.2 L, 0.6 mol) and reflux for 17.5 h. Concentrate and obtain 198 g of the title compound.

reactant | methoxy-phenyl-acetic acid {1-[2-(4-fluoro-phenyl)-ethyl]-piperidin-4-yl}-(2-methoxy-3-triisopropylsilanyloxy-phenyl)-methyl ester | FC1=CC=C(C=C1)CCN1CCC(CC1)C(C1=C(C(=CC=C1)O[Si](C(C)C)(C(C)C)C(C)C)OC)OC(C(C1=CC=CC=C1)OC)=O | C39H54FNO5Si
reactant | ammonium tetrafluoride | 0.6 mol, 1.2 L | [F-].[F-].[F-].[F-].[NH4+].[NH4+].[NH4+].[NH4+]
product | (S)-Methoxy-2-phenyl-acetic acid {1-[2-(4-fluoro-phenyl)-ethyl]-piperidin4-yl}-(3-hydroxy-2-methoxy-phenyl)-methyl ester | 198 g | FC1=CC=C(C=C1)CCN1CCC(CC1)C(C1=C(C(=CC=C1)O)OC)OC([C@H](C1=CC=CC=C1)OC)=O | C30H34FNO5
